US05804601
2) O-Propionyl-6-(4-methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid (Compound 7-6)
To a solution of 6-(4-methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid (2.8 g) in THF (40 ml) was added triethylamine (1.4 ml) followed by addition of propionyl chloride (669 mg) at 0° C. The reaction mixture was stirred for 1 hour and partitioned between water and ethyl acetate. The organic layer was dried and concentrated. The residue was purified with silica gel chromathography using hexane-ethyl acetate as an eluent to give the titled compound (2.1 g).

reactant | 6-(4-methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid | 2.8 g | COC1=CC=C(C=C1)C(CCCCC(=O)NO)C=1C(C2=CC=CC=C2C(C1C)=O)=O | C24H25NO5
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 669 mg | C(CC)(=O)Cl | C3H5ClO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | O-Propionyl-6-(4-methoxyphenyl)-6-(3-methyl-1,4-naphthoquinon-2-yl)hexanohydroxamic acid | 2.1 g | C(CC)(=O)ONC(CCCCC(C=1C(C2=CC=CC=C2C(C1C)=O)=O)C1=CC=C(C=C1)OC)=O | C27H29NO6
